US04175135
A solution of 30.98 g (0.221 mol) of 5,5-dimethyl-1,3-cyclohexanedione and 76.36 g (0.553 mol) of anhydrous potassium carbonate in 300 ml of dimethylformamide was heated to 75° C. with stirring under N2 for one hour. The 3,4,5-trichloronitrobenzene (50.0 g, 0.221 mol) was dissolved in 100 ml of dimethylformamide and added to the reaction mixture, while stirring and maintaining the temperature at 75° C. A deep red-colored solution was formed, and when the addition was complete the temperature was raised to 100° C. and the mixture stirred over night at this temperature. Most of the dimethylformamide was removed by vacuum distillation, and 21 of water was added to the residue. The aqueous solution was extracted three times with 500 ml portions of benzene, then N2 was passed through the aqueous solution while warming to remove dissolved benzene. The solution was cooled in an ice bath and acidified with 6 N HCl to give 63.8 g (87%) of 2-(2',6'-dichloro-4'-nitrophenyl)-5,5-dimethyl-1,3-cyclohexanedione as a tan powder, m.p. 288°-290° C.

reactant | 5,5-dimethyl-1,3-cyclohexanedione | 0.221 mol, 30.98 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | potassium carbonate | 0.553 mol, 76.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4,5-trichloronitrobenzene | 0.221 mol, 50.0 g | ClC=1C=C(C=C(C1Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(2',6'-dichloro-4'-nitrophenyl)-5,5-dimethyl-1,3-cyclohexanedione | 63.8 g, 87% | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)C1C(CC(CC1=O)(C)C)=O | C14H13Cl2NO4
